US07419984B2
A mixture of 4,6-dichloro-pyrimidin-2-yl-amine (6.6 g, 40 mmol), 4-aminobenzyl alcohol (8.0 g, 65 mmol) and N,N-diisopropylethylamine (15 ml) in ethanol (200 ml) was heated under reflux for 72 hours. Concentration under reduced pressure provided a solid which was stirred with 1.0 M hydrochloric acid (200 ml) for 1 hour, filtered, dried under reduced pressure, stirred with ethyl acetate (200 ml) for 2 hours, filtered, and dissolved in methanol (300 ml). Aqueous sodium carbonate solution (1.0 M, 50 ml) was added. After stirring for 2 hours, volatiles were evaporated under reduced pressure and water (200 ml) was added. Filtration and drying provided [4-(2-amino-6-chloro-pyrimidin-4-yl-amino)-phenyl]-methanol (6.3 g, 63% yield) as a white powder.

reactant | 4,6-dichloro-pyrimidin-2-yl-amine | 40 mmol, 6.6 g | ClC1=NC(=NC(=C1)Cl)N | C4H3Cl2N3
reactant | 4-aminobenzyl alcohol | 65 mmol, 8.0 g | NC1=CC=C(CO)C=C1 | C7H9NO
reactant | N,N-diisopropylethylamine | 15 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrochloric acid | 1.0 M, 200 ml | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | [4-(2-amino-6-chloro-pyrimidin-4-yl-amino)-phenyl]-methanol | 6.3 g, 63% yield | NC1=NC(=CC(=N1)NC1=CC=C(C=C1)CO)Cl | C11H11ClN4O
